### ISSUE TITLE
`application type mismatch` when proving `(a : Nat) : 0 + a = a` with user-supplied theorems

### ISSUE THREAD

**Issue by euprunin** [chasenorman/CanonicalLean#4]
When trying this:

```
import Canonical

theorem my_add_succ (a b : Nat) : a + (Nat.succ b) = Nat.succ (a + b) := by
  canonical

theorem my_add_zero (a : Nat) : a + 0 = a := by
  canonical [my_add_succ]

theorem my_succ_eq_add_one (n : Nat) : Nat.succ n = n + 1 := by
  canonical [my_add_succ, my_add_zero]

theorem my_zero_add (a : Nat) : 0 + a = a := by
  canonical [my_add_succ, my_add_zero, my_succ_eq_add_one]
```

I get the following expanded suggestions:

```
import Canonical

theorem my_add_succ (a b : Nat) : a + (Nat.succ b) = Nat.succ (a + b) := by
  exact Eq.refl (a.add b).succ

theorem my_add_zero (a : Nat) : a + 0 = a := by
  exact Eq.refl a

theorem my_succ_eq_add_one (n : Nat) : Nat.succ n = n + 1 := by
  exact my_add_zero n.succ

theorem my_zero_add (a : Nat) : 0 + a = a := by
  exact
    Nat.rec (motive := fun t ↦ Nat.zero.add t = t) (Eq.refl Nat.zero)
      (fun n n_ih ↦
        Eq.rec (motive := fun a t ↦ (Nat.zero.add n).succ = a.succ) (my_add_succ Nat.zero n) n_ih)
      a
```

The fourth one (`my_zero_add`) fails with:

```
application type mismatch
  @Eq.rec ?m.377 ?m.378 (fun a t => (Nat.zero.add n).succ = ?m.391) (my_add_succ Nat.zero n)
argument
  my_add_succ Nat.zero n
has type
  Nat.zero + n.succ = (Nat.zero + n).succ : Prop
but is expected to have type
  (Nat.zero.add n).succ = ?m.393 ?m.378 ⋯ : Prop
```

However, solving it without supplying any theorems works fine and gives the following expanded suggestion:

```
theorem my_zero_add (a : Nat) : 0 + a = a := by
  exact
    Nat.rec (motive := fun t ↦ Nat.zero.add t = t)
      (Nat.rec (motive := fun t ↦ Nat.zero = Nat.zero) (Eq.refl Nat.zero) (fun n n_ih ↦ n_ih) a)
      (fun n n_ih ↦
        Eq.rec (motive := fun a t ↦ (Nat.zero.add n).succ = a.succ) (Eq.refl (Nat.zero.add n).succ)
          n_ih)
      a
```

**Comment by chasenorman** [comment]
This is a Lean pretty printer round-tripping error. This term should type check, as you can see by placing a strategic "by exact" (which shouldn't do anything):

```
theorem my_zero_add (a : Nat) : 0 + a = a := by
  exact
      Nat.rec (motive := fun t ↦ Nat.zero.add t = t) (Eq.refl Nat.zero)
        (fun n n_ih ↦
          Eq.rec (motive := fun a t ↦ (Nat.zero.add n).succ = a.succ) (by exact my_add_succ Nat.zero n) n_ih)
        a
```

The expected type and the argument type in that error message are definitionally equal in Lean, but for some reason a little coaxing is required.
